US06177423B1
2-Chloro-N,N-dimethylethylamine hydrochloride (0.5 g, 3.3 mmol), potassium iodide (0.4 g, 2.4 mmol), and potassium carbonate (1.4 g, 10.1 mmol) were added to a suspension of 2-benzyloxy-5-hydroxy-benzo[de]isoquinoline-1,3-dione (0.8 g, 2.5 mmol) in acetone (100 mL). The mixture was refluxed for 8 hours and concentrated in vacuo. The residue was dissolved in water and extracted with 30% methanol in chloroform. The organic layer was dried (Na2SO4), filtered, and concentrated to give 0.3 g of 2-benzyloxy-5-(2-dimethylamino-ethoxy)-benzo[de]isoquinoline-1,3-dione. The hydrogenation of 2-benzyloxy-5-(2-dimethylamino-ethoxy)-benzo[de]isoquinoline-1,3-dione (0.2 g) in the presence of 10% Pd/C (0.2 g) in DMA (20 mL) afforded 0.04 g of the title compound, mp 225-229° C.;

reactant | 2-Chloro-N,N-dimethylethylamine hydrochloride | 3.3 mmol, 0.5 g | Cl.ClCCN(C)C
reactant | potassium iodide | 2.4 mmol, 0.4 g | [I-].[K+]
reactant | potassium carbonate | 10.1 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-benzyloxy-5-hydroxy-benzo[de]isoquinoline-1,3-dione | 2.5 mmol, 0.8 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3)O)=O | C19H13NO4
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 2-benzyloxy-5-(2-dimethylamino-ethoxy)-benzo[de]isoquinoline-1,3-dione | 0.3 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3)OCCN(C)C)=O | C23H22N2O4
